Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Primary hyperparathyroidism.

 
Major Surgical or Invasive Procedure:
Parathyroidectomy (excision of right parathyroid adenoma 
weighing and 4.52 g ) plus intraoperative nerve monitoring.

 
Past Medical History:
hyperparathyroidism, osteoporosis, HLD, Graves' disease, 
diet-controlled diabetes, CAD, paroxysmal AFib, renal cancer, 
ascending cholangitis in ___, colon polyps, herpes zoster.

PSH: nephrectomy, cholecystectomy, ERCP c sphincterotomy

 
Physical Exam:
Vitals:98.9,80, 122/64,18,97% RA
General: No acute distress, alert and oriented x3
HEENT:neck supple, trachea midline, transverse incision with 
steri-strips intact, no hematoma, no erythema or drainage
Cardiovascular: regular rate and rhythm, no murmurs/gallops/rubs
Pulmonary:clear, no stridor
Abdomen:soft/non-tender/non-distended
Extremities:no clubbing/cyanosis/edema

 
Pertinent Results:
___ 07:00AM BLOOD PTH-199*
___ 02:10PM BLOOD PTH-156*
___ 12:05PM BLOOD ___-___*
 
Brief Hospital Course:
Ms. ___ is status ___ parathyroidectomy with 
intraoperative nerve monitoring. She tolerated the procedure 
well and was transferred to the recovery room in good condition. 
Thereafter she was admitted to the inpatient general surgery 
unit for further monitoring. Her postoperative course was 
stable. 
She had no voice hoarseness or perioral or lower extremity 
paresthesia. The neck remained soft and there were no signs of 
wound infection or hematoma. Vital signs were routinely 
monitored and were stable. Patient had good pain control and was 
transition to oral pain medication. The diet was advanced as 
tolerated to regular. She was able to void postoperatively 
without any issues. She was deemed stable for discharge back to 
rehabilitation center.
 
Medications on Admission:
Cinacalcet 60 mg BID, Tylenol p.r.n., atenolol 50 mg p.o. daily, 
Lasix 20mg p.o. daily, isosorbide mononitrate 30 mg p.o. daily, 
losartan 25 mg p.o. daily, amlodipine 5 mg p.o. daily, 
omeprazole 40 mg p.o. daily, lactulose 15 mg p.r.n. 
constipation, Dulcolax 10 mg p.o. daily, cholecalciferol 1000 
units daily, oxybutynin 5 mg daily, meclizine 12.5 mg p.o. 
t.i.d., pravastatin 10 mg daily, Fosamax?

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amlodipine 10 mg PO QPM 
hold for SBP <115 
3. Atenolol 50 mg PO DAILY 
4. Cepacol (Menthol) 1 LOZ PO PRN throat pain 
5. Furosemide 10 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
7. Polyethylene Glycol 17 g PO DAILY 
8. Pravastatin 10 mg PO DAILY 
9. Outpatient Lab Work
serum calcium on ___, please fax results to Dr. ___ 
___, fax ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary hyperparathyroidism.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to take care of you after your surgery. You 
have adequate pain control and have tolerated a regular diet and 
are ready for discharge back to extended care facility. 
Please resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softner such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Incision Care:
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.You may shower and wash incisions with a mild soap 
and warm water.Avoid swimming and baths until cleared by your 
surgeon.Gently pat the area dry.You have a neck incision with 
steri-strips in place, do not remove, they will fall off on 
their own. 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities. Good luck!
 

 
Followup Instructions:
___